US05116404
3-(2-fluoro-4-chlorophenyl)-6-(2-fluorophenyl)-2,4(1H,3H)-pyrimidinedione (compound No. 1.3 of the present invention)
2.1 g of this ethyl 3-amino-3-(2-fluorophenyl)-2-propenoate was added dropwise to a solution of 0.5 g of sodium hydride (purity: 55%) in 20 ml of dimethylformamide with stirring at 0° C. The resulting solution was further stirred at room temperature for 15 minutes and then cooled to -30° C. and added dropwise with 20 ml of a toluene solution of 1.7 g of 2-fluoro-4-chlorophenyl isocyanate. The resultant solution was heated to room temperature and stirred at 80° C. for 30 minutes. Then the solvent was distilled away under reduced pressure and 100 ml of water was added to the residue to dissolve it. This aqueous solution was washed twice with diethyl ether and added to a mixed solution of 50 g of ice and 20 ml of concentrated hydrochloric acid. The precipitated crystals were filtered out and dried under the reduced pressure to obtain 3.0 g of a crude product. This crude product was washed with heated diisopropyl ether and then dried to obtain 2.4 g of the objective compound.

reactant | ethyl 3-amino-3-(2-fluorophenyl)-2-propenoate | 2.1 g | NC(=CC(=O)OCC)C1=C(C=CC=C1)F | C11H12FNO2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-fluoro-4-chlorophenyl isocyanate | 1.7 g | FC1=C(C=CC(=C1)Cl)N=C=O | C7H3ClFNO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2-fluoro-4-chlorophenyl)-6-(2-fluorophenyl)-2,4(1H,3H)-pyrimidinedione | 2.4 g | FC1=C(C=CC(=C1)Cl)N1C(NC(=CC1=O)C1=C(C=CC=C1)F)=O | C16H9ClF2N2O2
